* Z:\home\dlh\ECAM\3BMBS-electronique\Labos\Labo 1\Simulations\Draft1.asc
Q1 N001 VB VE 0 NPN
R1 P001 VB 180k
R2 VB P002 300k
R3 P003 N001 10k
R4 VE P004 10k
V1 P004 0 -10
V2 P003 0 10
V3 P001 0 10
V4 P002 0 -10
.model NPN NPN
.model PNP PNP
.lib C:\users\dlh\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
.backanno
.end
